US04816454
6-(4-Methylthio-phenyl)-5-methyl-4,5-dihydro-3(2H)-pyridazinone
2.3 g (0.01 mole) of 4-(4-methylthio-phenyl)-4-oxo-3-methyl-butyric acid and 1 ml of hydrazine hydrate are heated under reflux in 20 ml of isopropanol for 2 hour. After the mixture has been cooled, the product is filtered off with suction and dried.

reactant | 4-(4-methylthio-phenyl)-4-oxo-3-methyl-butyric acid | 0.01 mole, 2.3 g | CSC1=CC=C(C=C1)C(C(CC(=O)O)C)=O | C12H14O3S
reactant | hydrazine hydrate | 1 ml | O.NN
solvent | isopropanol | 20 ml | C(C)(C)O | C3H8O
product | 6-(4-Methylthio-phenyl)-5-methyl-4,5-dihydro-3(2H)-pyridazinone | CSC1=CC=C(C=C1)C=1C(CC(NN1)=O)C | C12H14N2OS
